US07157447B2
N-(4-Fluoro-2-(2-morpholino-2-oxoethoxy)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
The title compound can be prepared from intermediate 27, 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid and intermediate 131, 2-(2-(aminomethyl)-5-fluorophenoxy)-1-morpholinoethanone. 1H NMR (CDCl3, 500 MHz) δ ppm: 1.59 (6H, s, gem-Me), 3.38, 3.54 (4H, br, NCH2), 3.62 (4H, m, OCH2), 3.96 (2H, m, NCH2), 4.01 (2H, m, OCH2), 4.55 (2H, s, OCH2), 4.55 (2H, d, J=4.3 Hz, NCH2), 5.17 (2H, s, OCH2), 6.53 (1H, dd, J=10, 2.1 Hz, Ar—H), 6.63 (1H, dt, J=2.5, 8 Hz, Ar—H), 7.23–7.26 (1H, m, Ar—H), 7.28–7.30 (3H, m, Ar—Hs), 7.42–7.44 (2H, m, Ar—Hs), 8.00 (1H, t, J=5.5 Hz, NH); 13C NMR (CDCl3, 125.77 Hz) δ ppm: 27.74, 38.76, 42.30, 42.98, 45.38, 58.06, 66.55, 66.78, 66.91, 74.72, 76.27, 100.40, 100.61, 108.07, 108.23, 122.56, 128.37, 128.49, 128.84, 130.88, 130.96, 139.69, 141.36, 141.98, 156.70, 157.02, 157.10, 159.58, 162.04, 163.99, 162.86, 165.79. HRMS (ESI) calcd for C30H34N4O7F (M+H) 581.2412. found 581.2393.

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)O | C17H18N2O5
reactant | 2-(2-(aminomethyl)-5-fluorophenoxy)-1-morpholinoethanone | NCC1=C(OCC(=O)N2CCOCC2)C=C(C=C1)F | C13H17FN2O3
product | N-(4-Fluoro-2-(2-morpholino-2-oxoethoxy)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)OCC(=O)N1CCOCC1 | C30H33FN4O7
